US08278324B2
5-Methyl-6-(methyloxy)-3,4-dihydro-2(1H)-isoquinolinecarbaldehyde
To a solution of {2-[2-methyl-3-(methyloxy)phenyl]ethyl}formamide (Preparation 11; 1.93 g; 10.0 mmol) in formic acid (20 ml) was added paraformaldehyde (0.315 g; 10.5 mmol) and the resulting mixture was heated under reflux (100° C.) for 20 min.

reactant | {2-[2-methyl-3-(methyloxy)phenyl]ethyl}formamide | 10.0 mmol, 1.93 g | CC1=C(C=CC=C1OC)CCNC=O | C11H15NO2
reactant | paraformaldehyde | 10.5 mmol, 0.315 g | C=O | CH2O
solvent | formic acid | 20 ml | C(=O)O | CH2O2
product | 5-Methyl-6-(methyloxy)-3,4-dihydro-2(1H)-isoquinolinecarbaldehyde | CC1=C2CCN(CC2=CC=C1OC)C=O | C12H15NO2
